US05478845
4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-((1,2,3,4-tetrahydroquinolin-1-yl) carbonyloxy)-propyl)piperidine, hydrochloride
Starting from 4-(6-fluoro-1-methyl-I H-indazol-3-yl)-1-(3-hydroxypropyl)piperidine (370 mg; 1.2 mmol), 3M N-butyl lithium in hexane (0.7 ml; 2.1 mmol) and 1,2,3,4-tetrahydroquinolin-1-carbonyl chloride (300 mg; 1.5 mmol) using the procedure described in example 7 was prepared 50 mg (9%) of the title compound.

reactant | 4-(6-fluoro-1-methyl-I H-indazol-3-yl)-1-(3-hydroxypropyl)piperidine | 1.2 mmol, 370 mg | FC1=CC=C2C(=NN(C2=C1)C)C1CCN(CC1)CCCO | C16H22FN3O
reactant | hexane | 2.1 mmol, 0.7 ml | CCCCCC | C6H14
reactant | 1,2,3,4-tetrahydroquinolin-1-carbonyl chloride | 1.5 mmol, 300 mg | N1(CCCC2=CC=CC=C12)C(=O)Cl | C10H10ClNO
product | 4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-((1,2,3,4-tetrahydroquinolin-1-yl) carbonyloxy)-propyl)piperidine, hydrochloride | 50 mg, 9% | Cl.FC1=CC=C2C(=NN(C2=C1)C)C1CCN(CC1)CCCOC(=O)N1CCCC2=CC=CC=C12 | InChI=1S/C26H31FN4O2.ClH/c1-29-24-18-21(27)9-10-22(24)25(28-29)20-11-15-30(16-12-20)13-5-17-33-26(32)31-14-4-7-19-6-2-3-8-23(19)31;/h2-3,6,8-10,18,20H,4-5,7,11-17H2,1H3;1H
